US05708177
The procedure as described for Example 17 is followed. Starting from 120 mg of (-)-isopropyl 2-methoxyethyl 4-(2-chloro-3-cyanophenyl)-2,6-dimethylpyridine-3,5-dicarboxylate (atropisomer ratio in the elution sequence from chiral HPLC 98: 2; [α]20 D =7.2 (c=0.9, MeOH)), after electrolysis at 10-40 mA, 80 mg (67% of theory) of isopropyl 2-methoxyethyl 4-(2-chloro-3-cyanophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate are obtained in the enantiomer ratio 61.3:38.7.

reactant | (-)-isopropyl 2-methoxyethyl 4-(2-chloro-3-cyanophenyl)-2,6-dimethylpyridine-3,5-dicarboxylate | 120 mg | ClC1=C(C=CC=C1C#N)C1=C(C(=NC(=C1C(=O)OCCOC)C)C)C(=O)OC(C)C | C22H23ClN2O5
solvent | MeOH | CO | CH4O
product | isopropyl 2-methoxyethyl 4-(2-chloro-3-cyanophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 80 mg, 67% | ClC1=C(C=CC=C1C#N)C1C(=C(NC(=C1C(=O)OCCOC)C)C)C(=O)OC(C)C | C22H25ClN2O5
